US04296043
208 g of anthraquinone are dissolved in 1,000 g of concentrated sulphuric acid at 80°-110°. 96 g of sodium hypophosphite, dissolved in 240 g of glycerol, are added to this solution in a manner such that a temperature of 100° C. can be maintained. The mixture is then heated to 120° C. and kept at this temperature for 3 hours. The melt is then poured into 3 l of water and the product which has precipitated is filtered off. It is washed with hot water until the runnings are almost colourless, the filter cake is then suspended in 1.5 l of water and the suspension is rendered weakly alkaline and boiled up. After renewed filtration of the product, washing with hot water and drying at 100° C., 200-225 g of 92-97% pure benzanthrone≈80-93% of theory result.

reactant | anthraquinone | 208 g | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
reactant | sodium hypophosphite | 96 g | [PH2](=O)[O-].[Na+]
reactant | water | 3 l | O | H2O
reactant | glycerol | 240 g | OCC(O)CO | C3H8O3
solvent | sulphuric acid | 1,000 g | S(O)(O)(=O)=O | H2O4S
product | benzanthrone | 200-225 g | C1=CC=C2C=CC=C3C(=O)C4=CC=CC=C4C1=C23 | C17H10O
